US06096735
To a mixture of 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-{4-[2-(2-methylphenyl)-1-hydroxyethyl]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g), acetic acid (5 ml) and acetic anhydride (3 ml) is added a drop of conc. sulfuric acid, and the mixture is stirred at room temperature for 12 hours, and subsequently stirred at a temperature from 60-70° C. for 6 hours. The reaction mixture is poured into ice-water, and thereto is added ethyl acetate (30 ml). The mixture is basified with sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer is washed successively with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=20:1) to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-{4-[2-(2-methylphenyl)-1-acetyloxyethyl]-benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.36 g) as colorless amorphous.

reactant | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-{4-[2-(2-methylphenyl)-1-hydroxyethyl]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(C=C2)C(CC2=C(C=CC=C2)C)O)=O)CC(=O)N2CCN(CC2)C)C1 | C33H38ClN3O3
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-{4-[2-(2-methylphenyl)-1-acetyloxyethyl]-benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.36 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(C=C2)C(CC2=C(C=CC=C2)C)OC(C)=O)=O)CC(=O)N2CCN(CC2)C)C1 | C35H40ClN3O4
